US05945565
In a 5-liter four-necked round-bottomed flask 1.5 l of methylene chloride was cooled to -78° C. Oxalyl chloride (164 g, 1.29 moles) was added slowly, followed by dropwise addition of 202 g (2.59 moles) of dry dimethylsulfoxide in 125 mL of methylene chloride, keeping the temperature below -70° C. After the addition was complete the reaction mixture was stirred at -78° C. for 30 minutes and 273 g (1.29 moles) of previously prepared methyl 3-hydroxymethyl-4-nitrobenzoate dissolved in 250 mL of methylene chloride was added dropwise. The reaction mixture was stirred an additional 30 minutes. Triethylamine (392 g 3.88 moles) in 125 mL of methylene chloride was added dropwise keeping the temperature below -65° C. The reaction mixture was warmed up slowly to room temperature and stirred overnight. The solvent was removed using a rotary evaporator and the resulting solid treated with a mixture of 2 l of ethyl acetate and 1 l of water. The organic phase was separated, filtered through diatomaceous earth, and washed sequentially with dilute aqueous hydrochloric acid (2×250 mL), water (2×250 mL), saturated aqueous sodium bicarbonate (2×250 mL), water (2×200 mL), brine (1×200 mL) and dried over anhydrous magnesium sultate. The solvent was removed using a rotary evaporator. The crude reaction mixture was triturated with hexane and filtered yielding 234.1 g of the expected methyl 3-formyl-4-nitrobenzoate as a yellow solid. This compound was used as such in the next step.

reactant | Oxalyl chloride | 1.29 moles, 164 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 2.59 moles, 202 g | CS(=O)C | C2H6OS
reactant | methyl 3-hydroxymethyl-4-nitrobenzoate | OCC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C9H9NO5
reactant | Triethylamine | 3.88 moles, 392 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 125 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 125 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1.5 l | C(Cl)Cl | CH2Cl2
product | methyl 3-formyl-4-nitrobenzoate | 234.1 g | C(=O)C=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C9H7NO5
